US06518423B1
Ethyl[1-[3-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-propyl]piperidin-4-yl]carboxylate
To a solution of 0.6 g of 3-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]propionaldehyde and 0.31 g of ethyl isonipecotate in acetonitrile (50 ml) was added 0.2 g of sodium borohydride cyanide. Further, acetic acid was added so as to maintain the pH value at 4. Then the resulting mixture was reacted at room temperature for 12 hours. After adding an aqueous solution of sodium hydroxide, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the crude product thus obtained was dissolved in 30 ml of tetrahydrofuran. After adding 1 ml of 6 N hydrochloric acid, the resulting mixture was reacted for 1 hour. After adding an aqueous solution of sodium bicarbonate, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with methanol/dichloromethane) to thereby give 0.39 g of the title compound as a brown oily substance.

reactant | 3-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]propionaldehyde | 0.6 g | COCN1C2=C(SC3=C1C=C(C=C3)CCC=O)N=CC=N2 | C15H15N3O2S
reactant | ethyl isonipecotate | 0.31 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium borohydride cyanide | 0.2 g | [C-]#N.[BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6 N, 1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl[1-[3-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-propyl]piperidin-4-yl]carboxylate | 0.39 g | C(C)OC(=O)C1CCN(CC1)CCCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C21H26N4O2S
